US06150526
In an analogous manner to that described in Example 33(a), from tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl]-3-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate by reaction with bis-(benzothiazol-2-yl) disulphide there was obtained tert-butyl (3RS,4RS)-4-[4-[2-(benzothiazol-2-ylsulphanyl)-ethyl]-phenyl]-3-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate as a colourless foam; MS: 757 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl]-3-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | OCCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C | C35H49NO6Si
reactant | bis-(benzothiazol-2-yl) disulphide | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
product | tert-butyl (3RS,4RS)-4-[4-[2-(benzothiazol-2-ylsulphanyl)-ethyl]-phenyl]-3-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | S1C(=NC2=C1C=CC=C2)SCCC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC1=CC=CC=C1C(=C2)OCOCC[Si](C)(C)C | C42H52N2O5S2Si
